US08710080B2
4A. [(S)-1-(4-Fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester
A solution of [4-(5-aminomethyl-2-fluoro-phenyl)-piperidin-1-yl]-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indol-3-yl]-methanone hydrochloride (0.3 g, 0.55 mmol), BOC-Val-OH (0.143 g, 0.66 mmol), EDCI (0.126 g, 0.66 mmol), HOBT (0.224 g, 1.65 mmol), and Et3N (0.23 ml, 1.65 mmol) in CH2Cl2 (30 mL) was stirred at rt overnight. The reaction mixture was poured into EtOAc and the organic layer washed with 10% citric acid and brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give the crude product. Purification by flash chromatography on SiO2 eluting with 3% MeOH/CH2Cl2 afforded the desired product (0.39 g, 99%). 1H NMR (300 MHz, CDCl3) δ 7.4 (s, 1H), 7.1 (m, 2H), 7.0-6.8 (m, 3H), 6.3 (bs, 1H), 5.0 (bs, 1H), 4.5-4.3 (m, 4H), 3.9 (m, 1H), 3.8 (m, 2H), 3.35 (s, 3H), 3.1 (m, 2H), 2.2 (m, 2H), 2.0-1.6 (m, 6H), 1.4 (s, 9H), 0.9 (m, 6H). MS m/z: [M+H]+=711.

reactant | [4-(5-aminomethyl-2-fluoro-phenyl)-piperidin-1-yl]-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indol-3-yl]-methanone hydrochloride | 0.55 mmol, 0.3 g | Cl.NCC=1C=CC(=C(C1)C1CCN(CC1)C(=O)C1=CN(C2=C(C=CC(=C12)OC(F)(F)F)F)CCOC)F
reactant | BOC-Val-OH | 0.66 mmol, 0.143 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | EDCI | 0.66 mmol, 0.126 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.65 mmol, 0.224 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.65 mmol, 0.23 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [(S)-1-(4-Fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.39 g, 99% | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=C(C=CC(=C12)OC(F)(F)F)F)CCOC)=O)=O | C35H43F5N4O6
